US04124596
Anhydrous aluminium chloride (167.5 g) is added in small portions over a period of 11/2 hours to a mixture of methyl (thieno[2,3-b]thiophene-2-carboxylate (49.5 g) and 3-chloroformyl-phenylacetonitrile (44.8 g) in methylene chloride (1250 cc) at 20°-30° C. The reaction mixture is stirred for 17 hours at a temperature of about 20° C., then hydrolysed, with care, by the slow addition of an N aqueous solution of hydrogen chloride (500 cc), the internal temperature being kept at about 20° C. by external cooling with an ice bath. The aqueous phase is decanted off and extracted three times with methylene chloride (total 600 cc). The combined methylene chloride solutions are washed three times with distilled water (total 240 cc), dried over anhydrous sodium sulphate in the presence of decolourizing charcoal (2 g), filtered and evaporated. The residue is taken up in boiling acetonitrile (250 cc). After cooling for 1 hour at 4° C., the resulting crystals are filtered off, washed three times with iced acetonitrile (total 60 cc), and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. 3-(5-Methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenylacetonitrile (74.7 g), melting at 184° C., is thus obtained.

reactant | aluminium chloride | 167.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thieno[2,3-b]thiophene-2-carboxylate | 49.5 g | S1C(=CC2=C1SC=C2)C(=O)[O-]
reactant | 3-chloroformyl-phenylacetonitrile | 44.8 g | ClC(=O)C=1C=C(C=CC1)CC#N | C9H6ClNO
reactant | hydrogen chloride | 500 cc | Cl | ClH
reactant | methylene chloride | 1250 cc | C(Cl)Cl | CH2Cl2
product | 3-(5-Methoxycarbonyl-thieno[2,3-b]thien-2-yl)carbonyl-phenylacetonitrile | 74.7 g | COC(=O)C1=CC2=C(S1)SC(=C2)C(=O)C=2C=C(C=CC2)CC#N | C17H11NO3S2
